US04980503
2-n-Butoxyethanol formate was prepared in 96% purity by reaction of 2-n-butoxyethanol with excess formic acid and azeotropic removal of H2O in the presence of chloroform. To 480 g there was added 100 g of a solution consisting of 300 ml CH3I, 20 ml acetic acid, and 0.05 g of Co2 (CO)8. The resultant solution was pumped at 0.17 ml/min to a 25 cc reactor containing 25 cc of Sorbonorit B-3 (same system as Example 6) while CO was simultaneously fed to the reactor at 5 or 7.5 liters/hr. The reactor was operated at elevated temperature and pressure. GLC analyses of liquid effluent collected under various conditions were as follows:

reactant | 2-n-butoxyethanol | C(CCC)OCCO | C6H14O2
reactant | formic acid | C(=O)O | CH2O2
reactant | H2O | O | H2O
reactant | CH3I | 300 ml | CI | CH3I
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-n-Butoxyethanol formate | C(=O)OCCOCCCC | C7H14O3
